US08492378B2
6-[5-[2-[4-methoxy-3-(trifluoromethyl)phenyl]ethyl]-1,3,4-oxadiazol-2-yl]imidazo[1,2-a]pyridine
In the same manner as in Example 14 and using imidazo[1,2-a]pyridine-6-carbohydrazide instead of 1H-benzotriazole-5-carbohydrazide and 3-[4-methoxy-3-(trifluoromethyl)phenyl]propionic acid instead of 3-(3-cyanophenyl)propionic acid, the title compound (yield 38%) was obtained as colorless crystals.

reactant | imidazo[1,2-a]pyridine-6-carbohydrazide | N=1C=CN2C1C=CC(=C2)C(=O)NN | C8H8N4O
reactant | 3-[4-methoxy-3-(trifluoromethyl)phenyl]propionic acid | COC1=C(C=C(C=C1)CCC(=O)O)C(F)(F)F | C11H11F3O3
product | 6-[5-[2-[4-methoxy-3-(trifluoromethyl)phenyl]ethyl]-1,3,4-oxadiazol-2-yl]imidazo[1,2-a]pyridine | yield 38% | COC1=C(C=C(C=C1)CCC1=NN=C(O1)C=1C=CC=2N(C1)C=CN2)C(F)(F)F | C19H15F3N4O2
